2160-11-05 07:53:00 Physician Resident Progress Note
24 Hour Events:
 INVASIVE VENTILATION - START [**2160-11-4**] 01:45 PM
 EKG - At [**2160-11-4**] 04:00 PM
 ARTERIAL LINE - START [**2160-11-4**] 04:00 PM
 BLOOD CULTURED - At [**2160-11-4**] 05:00 PM
 EKG - At [**2160-11-4**] 05:00 PM
   - admitted
   - pt intubated for AMS and respiratory distress
   - got hypotensive with propofol, so stopped propofol
   - pt then on versed/fentanyl --> brady to 40s, tried to switch back to
   propofol to see if brady better, but no change.  Continued propofol.
   This AM, shut off propofol, still brady to 40s but following commands.
   - a-line placed
   - UOP dropping --> bolused 7 L in last 24 hours, bladder scan without
   urine and flushed foley without problem
   - CE cycled due to concerning diffuse TWI after intubation --> CE
   negative x 2
   - Cards consulted --> believe not concerning changes on EKG
   - SW found out contacts for pt: [**Name (NI) 8530**] [**Name (NI) 4826**] (SW) [**Telephone/Fax (1) 10431**]; [**Doctor Last Name 10432**]
   (RN) [**Telephone/Fax (1) 10433**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-4**] 03:15 PM
   Cefipime - [**2160-11-5**] 04:12 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-4**] 04:26 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-5**] 12:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-5**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.9
C (96.6
   HR: 45 (40 - 94) bpm
   BP: 105/61(78) {92/56(70) - 111/68(84)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
             Total In:
                                                                  7,488 mL
                                                                  2,188 mL
   PO:
             TF:
   IVF:
                                                                  5,488 mL
                                                                  2,188 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    150 mL
   Urine:
                                                                    280 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,208 mL
                                                                  2,038 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.29/42/157/21/-5
   Ve: 8.6 L/min
   PaO2 / FiO2: 393
   Physical Examination
   VS 96.2 94 123/77 22 86% on2L
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dentures
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : bilateral), (Breath Sounds: Diminished:
   bilateral, Rhonchorous: bilateral), using accessory muscles, minimal
   air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   258 K/uL
   13.3 g/dL
   159 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   27 mg/dL
   116 mEq/L
   143 mEq/L
   42.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2160-11-4**]  09:41 AM
                             [**2160-11-4**]  10:29 AM
                             [**2160-11-4**]  12:23 PM
                             [**2160-11-4**]  04:13 PM
                             [**2160-11-4**]  04:26 PM
                             [**2160-11-5**]  04:27 AM
                             [**2160-11-5**]  04:35 AM
   WBC
   5.1
   Hct
   41
   42.2
   Plt
   258
   Cr
   0.8
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   42
   36
   24
   21
   Glucose
   127
   133
   222
   159
   Other labs: CK / CKMB / Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L,
   Ca++:6.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   [**11-4**] Sputum Sample: contaminated
   [**11-4**] BCx x 2 NGTD
   [**11-4**] Legionella negative
   CXR [**11-4**]
   HISTORY: ET tube placement after adjusting.
   FINDINGS: In comparison with study of [**11-4**], the tip of the endotracheal
   tube
   lies approximately 5 cm above the carina. Little change in the
   appearance of
   the heart and lungs. Opacification is seen at the right base, somewhat
   worrisome for developing consolidation.
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress thought [**3-10**]
   copd exacerbation.
   .
   # Hypoxia: With history of COPD and increased dypsnea and cough
   productive of sputum, tachypnea patient like flaring from COPD. [**Name (NI) **]
   unclear. CXR clear without fever or leukocytosis to suggest PNA. Has
   had conjunctivitits which could indicate a viral or bacterial infection
   in past couple of weeks. Lives at home but does attend a day care 3
   times a week so should cover for health care associated PNA. Patient
   required intubation for tachypnea, increased work of breathing with
   accessory muscle use and AMS (increased aggitation and subsequent
   somnolence.) CHF is also possible but appeared clinically dry with h/o
   RV hypokinesis but no left heart failure. PE is of course on
   differential but clinical picture much more c/w COPD flare, no
   significant risks for PE and no signs of right heart strain on EKG.
   - decreased RR
   - Check CXR
   -cont methylpred 125mg IV q6 hours
   -cont vent AC with plan to wean to PSV
   -cover for HAP with Vanc/Cefepime/azithro, Vanc level prior to 4th dose
   -f/u urine legionella
   -f/u BCx
   -f/u sputum Cx
   -f/u viral nasal aspirate to r/o flu
   -follow VBGs for PCO2
   -cont albuterol and ipratropium nebs q4
   -resume home spiriva and advair when tolerating PO
   # Oliguria: urine lytes
   # bradycardia:
   - check ECG, check echocardiogram.
   .
   #Hypotension: Pressure stable until intubation with suc/etomidate.
   Proprofol likely contributing. Patient quite clinically dry. No signs
   of bleed hct appears concentrated. No fever or leukocytosis to suspect
   infection vs sepsis.
   -f/u Bcx
   -cont broad abx coverage as above
   -increase PEEP as patient is autopeeping
   -bolus IVF
   -switch sedation to fentanyl/midaz
   .
   # EKG changes: No known history of CAD. V3-V4 with 1mm elevation, no CP
   or Trop elevation to suggest ACS. Maybe lead placement with patient
   moving giving poor baseline. Already given aspirin in ED.
   -trend enzymes
   -repeat ekg
   -cont asprin 81 mg for primary prevention once ruled out
   .
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   -resume zyprexa 7.5mg when taking PO
   -d/w SW re: guardian and person responable for health care decisions
   .
   # CONTACT: brother [**Name (NI) **] [**Telephone/Fax (1) 4223**] who does not make medical decisions
   for him
   ICU Care
   Nutrition: NPO
 TF today
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   20 Gauge - [**2160-11-4**] 12:51 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2160-11-05 10:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   intubated upon arrival to floor
   low urine output
   continues to have TWI anterior leads with bradycardia
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-4**] 03:15 PM
   Cefipime - [**2160-11-5**] 04:12 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-4**] 04:26 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-5**] 12:08 AM
   Other medications:
   nicotine patch
   colace
   heparin sq
   methylpred 125 qg
   ppi
   azithro 250 po
   albuterol/atrovent q 2
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-5**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 43 (39 - 94) bpm
   BP: 123/70(90) {92/56(70) - 123/70(90)} mmHg
   RR: 18 (18 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
             Total In:
                                                                  7,488 mL
                                                                  2,224 mL
   PO:
             TF:
   IVF:
                                                                  5,488 mL
                                                                  2,224 mL
   Blood products:
   Total out:
                                                                    280 mL
                                                                    255 mL
   Urine:
                                                                    280 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,208 mL
                                                                  1,969 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 20 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.29/42/157/21/-5
   Ve: 9.6 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   13.3 g/dL
   258 K/uL
   159 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   27 mg/dL
   116 mEq/L
   143 mEq/L
   42.2 %
   5.1 K/uL
        [image002.jpg]
                             [**2160-11-4**]  09:41 AM
                             [**2160-11-4**]  10:29 AM
                             [**2160-11-4**]  12:23 PM
                             [**2160-11-4**]  04:13 PM
                             [**2160-11-4**]  04:26 PM
                             [**2160-11-5**]  04:27 AM
                             [**2160-11-5**]  04:35 AM
   WBC
   5.1
   Hct
   41
   42.2
   Plt
   258
   Cr
   0.8
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   42
   36
   24
   21
   Glucose
   127
   133
   222
   159
   Other labs: CK / CKMB / Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L,
   Ca++:6.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64 yo M schizophrenia, severe COPD here w COPD exacerbation
   1. respiratory failure:
    COPD exacerbation, +/- infectious (viral, bacterial source)
    - cont solumedrol 125 IV q 6h
    - standing nebs q 2 hr
    - will attempt to correct relative resp alkalosis
    - cont vanc/cefepime, azithro
    - f/u cxr today
    - if cxr remains negative and gram stain negative will d/c
   vanc/cefepime
   2. bradycardia: likely vagal v med related, cont monitor, atropine
   available
   3. pHTN/RHF: will check TTE
   4. Volume status: likely hypovolemic with decreased UOP despite 7+ L
   IVF, now improving, f/u FeNA, TTE
   5. EKG changes: cont monitor rhythm
   6. Psychiatric illness: social work following
   ICU Care
   Nutrition:
   Comments: OG tube/feeds to start today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   20 Gauge - [**2160-11-4**] 12:51 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname 4221**] with Dr. [**Last Name (STitle) 5651**], whose notes reflect my
   input.  BP stabilized after volume repletion, though UOP remained low.
   PIPs down a bit. Bradycardia (sinus) persisted but improves with
   stimulation.
   On exam now:
   Sedated.
   Diffuse expiratory wheezes less than yesterday.
   Distant heart.
   Protuberant but soft abdomen.
   No calf edema or cords
   Labs, meds, allergies, PMH, FH, SH, and ROS reviewed.
   ASSESSMENT AND PLAN
   64-year-old man with
          acute-on-chronic hypercarbic respiratory failure
          known severe COPD
          oliguria
          hypotension (post-intubation, likely hypovolemic, now
   resolved)
          bradycardia (likely sedation-related, vs. vagal from
   increased intrathoracic pressure)
          abnormal EKG (with precordial t wave inversions)
          schizophrenia (chronic, by report)
   We will continue to treat for COPD exacerbation with steroids,
   bronchodilators, and antibiotics.  It is not completely clear whether
   he has pneumonia or not:  we will check sputum cultures and treat
   empirically while awaiting results.  Repeats CXR today; if negative,
   consider d/c ABX. There are no signs suggesting PE at present.  We have
   discussed his EKG with cardiology, who feel that the T wave inversions
   are nonspecific, and we will follow enzymes.  For oliguria, will assess
   ULytes and TTE.  Routine ICU care and prophylaxis.  Other issues per
   Drs. [**Last Name (STitle) 5651**] and [**Doctor Last Name **]
   He is critically ill: 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2160-11-5**] 22:00 ------

2160-11-06 07:25:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2160-11-5**] 08:50 AM
 TRANSTHORACIC ECHO - At [**2160-11-5**] 11:00 AM
   -increase propofol for sedation
   -BPs improved
   -given 1 L NS and urine output improved to 25cc/hr
   -decreased peep, no more autopeep
   -echo unchaged from prior
   -decreased RR to create more physiologic resp acidosis
   -fena 0.11%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-5**] 08:00 PM
   Cefipime - [**2160-11-6**] 04:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-5**] 04:02 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-6**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.7
C (96.2
   HR: 47 (39 - 70) bpm
   BP: 118/70(88) {99/62(76) - 138/81(102)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  4,332 mL
                                                                  1,522 mL
   PO:
             TF:
                                                                    224 mL
                                                                    252 mL
   IVF:
                                                                  4,008 mL
                                                                  1,270 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    105 mL
   Urine:
                                                                    600 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,732 mL
                                                                  1,417 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: Agitated
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/43/155/23/-4
   Ve: 7.4 L/min
   PaO2 / FiO2: 388
   Physical Examination
   iGeneral Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dentures
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : bilateral), (Breath Sounds: Diminished:
   bilateral, Rhonchorous: bilateral), using accessory muscles, minimal
   air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   237 K/uL
   13.3 g/dL
   149 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.6 mEq/L
   31 mg/dL
   114 mEq/L
   143 mEq/L
   41.7 %
   10.5 K/uL
        [image002.jpg]
                             [**2160-11-4**]  12:23 PM
                             [**2160-11-4**]  04:13 PM
                             [**2160-11-4**]  04:26 PM
                             [**2160-11-5**]  04:27 AM
                             [**2160-11-5**]  04:35 AM
                             [**2160-11-5**]  12:50 PM
                             [**2160-11-5**]  02:28 PM
                             [**2160-11-5**]  05:02 PM
                             [**2160-11-6**]  03:31 AM
                             [**2160-11-6**]  03:45 AM
   WBC
   5.1
   10.5
   Hct
   41
   42.2
   41.7
   Plt
   258
   237
   Cr
   0.8
   0.7
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   36
   24
   21
   23
   22
   23
   23
   Glucose
   222
   159
   149
   Other labs: CK / CKMB / Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.5 mg/dL, PO4:3.1 mg/dL
   [**11-4**] BCx x 2: NGTD
   [**11-4**] Legionella pending
   [**11-4**] Sputum: pending
[**2160-11-4**] 7:06 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab.
   Respiratory Viral Culture (Preliminary):
   Respiratory Viral Antigen Screen (Final [**2160-11-5**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
[**2160-11-5**] 11:04 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2160-11-5**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**11-5**] TTE
   Left ventricular wall thickness, cavity size, and global systolic
   function are normal (LVEF>55%). The right ventricular free wall is
   hypertrophied. The right ventricular cavity is moderately dilated with
   mild global free wall hypokinesis. The aortic valve leaflets are mildly
   thickened (?#). The mitral valve leaflets are mildly thickened. There
   is no mitral valve prolapse. Trivial mitral regurgitation is seen. The
   tricuspid valve leaflets are mildly thickened.
   Compared with the prior study (images reviewed) of [**2159-9-18**],
   suboptimal images on current study, but overall findings are similar
   with normal left ventricular size and systolic function. Hypertrophied
   moderately dilated right ventricle with mildly depressed systolic
   function.
   [**11-5**] PORTABLE CXR
   FINDINGS:
   ET tube is unchanged with its tip at the thoracic inlet. The new NG
   tube
   passes into the stomach in satisfactory position.
   There is mild hyperinflation consistent with COPD. Increased
   bronchovascular
   markings in the mid and upper left lung unchanged back to [**2159**] is a
   combination of scarring, atelectasis, and emphysema. No acute
   consolidation,
   pneumothorax or pleural effusion. Cardiomediastinal silhouette is
   normal.
   IMPRESSION:
   Satisfactory placement of new OG tube.
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress thought [**3-10**]
   copd exacerbation.
   .
   # COPD exacerbation:
   -continue high dose pulse steroids x 3 days (last day today)
   -cont vent AC with plan to wean to PSV
   -cover for HAP with Vanc/azithro, Vanc level prior to 4th dose
   -d/c cefepime given sputum culture
   -f/u BCx
   -f/u sputum Cx
   -cont albuterol and ipratropium nebs q2 hours standing
   -resume home spiriva and advair when tolerating PO
   -follow serial ABGs
   # Oliguria: FeNa 0.11%, likely significantly pre-renal, UOP approx
   20-25 cc/hour
   - bolus for UOP goal of 25 cc/hour
   # Bradycardia: continued HR in 40s, believe it may be due to sedation
   vs. vagal response to intubation, BPs improved to 100-110s
   - monitor
   .
   # EKG changes: No known history of CAD. V3-V4 with 1mm elevation, no CP
   or Trop elevation to suggest ACS. Maybe lead placement with patient
   moving giving poor baseline. Already given aspirin in ED. ROMI x 2
   -cont asprin 81 mg for primary prevention once ruled out
   .
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   -resume zyprexa 7.5mg when taking PO
   -d/w SW re: guardian and person responable for health care decisions
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   20 Gauge - [**2160-11-4**] 12:51 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   ICU CONSENT NEEDS TO BE COMPLETED
   Code status: Full code
   Disposition:ICU

2160-11-07 07:13:00 Physician Resident Progress Note
24 Hour Events:
   - continued on AC overnight
   - bolused 2 L NS for low UOP
   - made contact with outside CM. no new updates re: HCP
   - d/c
ed cefepime
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-11-6**] 04:00 AM
   Vancomycin - [**2160-11-6**] 08:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-6**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-7**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-7**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.4
   HR: 55 (47 - 65) bpm
   BP: 120/61(81) {104/60(76) - 135/79(100)} mmHg
   RR: 24 (14 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  4,310 mL
                                                                    653 mL
   PO:
             TF:
                                                                  1,171 mL
                                                                    430 mL
   IVF:
                                                                  3,059 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    720 mL
                                                                    195 mL
   Urine:
                                                                    720 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,590 mL
                                                                    458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 72 (72 - 72) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 36 cmH2O
   Plateau: 26 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 96%
   ABG: ///22/
   Ve: 5 L/min
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dentures
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : bilateral), (Breath Sounds: Diminished:
   bilateral, Rhonchorous: bilateral), using accessory muscles, minimal
   air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   240 K/uL
   13.0 g/dL
   208 mg/dL
   0.8 mg/dL
   22 mEq/L
   5.4 mEq/L
   32 mg/dL
   111 mEq/L
   140 mEq/L
   41.5 %
   10.0 K/uL
        [image002.jpg]
                             [**2160-11-4**]  04:13 PM
                             [**2160-11-4**]  04:26 PM
                             [**2160-11-5**]  04:27 AM
                             [**2160-11-5**]  04:35 AM
                             [**2160-11-5**]  12:50 PM
                             [**2160-11-5**]  02:28 PM
                             [**2160-11-5**]  05:02 PM
                             [**2160-11-6**]  03:31 AM
                             [**2160-11-6**]  03:45 AM
                             [**2160-11-7**]  05:00 AM
   WBC
   5.1
   10.5
   10.0
   Hct
   41
   42.2
   41.7
   41.5
   Plt
   258
   237
   240
   Cr
   0.8
   0.7
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   24
   21
   23
   22
   23
   23
   Glucose
   222
   159
   149
   208
   Other labs: CK / CKMB / Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
[**2160-11-5**] 11:04 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2160-11-5**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # COPD exacerbation:
   -continue high dose pulse steroids x 3 days (last day today)
   - wean sedation, attempt PS trial and may need to increase PEEP
   -cover for HAP with Vanc x 8 days / azithromycin x 5 days
   -f/u BCx
   -f/u sputum Cx
   -cont albuterol and ipratropium nebs q4 standing
   -resume home spiriva and advair when tolerating PO
   -follow serial ABGs after PS
   # Oliguria: FeNa 0.11%, likely significantly pre-renal, UOP approx 15
   cc / hour
   - bolus for UOP goal of 15-20 cc / hour
   # Bradycardia: continued HR in 40s, believe it may be due to sedation
   vs. vagal response to intubation, BPs improved to 100-110s
   - monitor
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - defer  zyprexa 7.5mg for now
   - d/w SW re: guardian and person responsible for health care decisions
 attempting to find sister
   ICU [**Name (NI) **]
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   20 Gauge - [**2160-11-4**] 12:51 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   ICU CONSENT NEEDS TO BE COMPLETED
   Code status: Full code
   Disposition :ICU
   ------ Protected Section ------
   Steroids to be changed to prednisone 60 mg po daily with slow taper
   over 2 weeks.  Will also change protonix to po daily.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4316**] [**Last Name (NamePattern1) 272**], MD
   on:[**2160-11-7**] 11:08 ------

2160-11-08 07:24:00 Physician Resident Progress Note
24 Hour Events:
 BRONCHOSCOPY - At [**2160-11-7**] 03:58 PM
   - PS trial - 15/8 for 1.5 hours but limited due to tachypnea --> AC
   - left messages for social worker
   - changed to po lansoprazole, prednisone po
   - bronchoscopy performed
   - company that oversees his care --> case worker is trying to locate
   sister as possible HCP
   - CT chest completed overnight with ascites, bilateral pleural
   effusions, small hepatic lesion
   - UOP picking up
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2160-11-6**] 04:00 AM
   Vancomycin - [**2160-11-7**] 08:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-11-7**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.3
C (97.3
   HR: 48 (46 - 66) bpm
   BP: 127/63(83) {102/59(76) - 147/127(132)} mmHg
   RR: 14 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  2,270 mL
                                                                    546 mL
   PO:
             TF:
                                                                  1,232 mL
                                                                    443 mL
   IVF:
                                                                    928 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                    844 mL
                                                                    525 mL
   Urine:
                                                                    844 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,426 mL
                                                                     21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 423) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.30/55/130/29/0
   Ve: 4.8 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, dentures
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: No(t)
   Resonant : , Dullness : bilateral), (Breath Sounds: Diminished:
   bilateral, Rhonchorous: bilateral), using accessory muscles, minimal
   air movement
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   241 K/uL
   12.9 g/dL
   202 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.9 mEq/L
   31 mg/dL
   109 mEq/L
   140 mEq/L
   40.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2160-11-5**]  04:35 AM
                             [**2160-11-5**]  12:50 PM
                             [**2160-11-5**]  02:28 PM
                             [**2160-11-5**]  05:02 PM
                             [**2160-11-6**]  03:31 AM
                             [**2160-11-6**]  03:45 AM
                             [**2160-11-7**]  05:00 AM
                             [**2160-11-7**]  01:00 PM
                             [**2160-11-8**]  03:29 AM
                             [**2160-11-8**]  03:33 AM
   WBC
   10.5
   10.0
   10.6
   Hct
   41.7
   41.5
   40.7
   Plt
   237
   240
   241
   Cr
   0.8
   0.8
   0.7
   TCO2
   21
   23
   22
   23
   23
   26
   28
   Glucose
   149
   208
   202
   Other labs: PT / PTT / INR:11.4/32.6/0.9, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan:
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now with likely
   contribution of volume overload
   - continue prednisone 60 po daily with taper
   - continue vancomycin x 8 days (day [**7-14**])
   - continue albuterol and ipratropirum nebs q4 hours
   - AC with increased TV and decreased RR
 then ABG
 will attempt PS
   trial
   - f/u culture data
   - I/O -1 L goal
   - [**Hospital1 **] lytes
   - IV bolus lasix
   # Oliguria: FeNa 0.11%, likely significantly pre-renal, UOP improved
   - attempt to hold off boluses given trying to diurese
   # Bradycardia: continued HR in 40s, believe it may be due to sedation
   vs. vagal response to intubation, BPs improved to 100-110s
   - monitor
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - defer  zyprexa 7.5mg for now
   - d/w SW re: guardian and person responsible for health care decisions
 attempting to find sister
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   20 Gauge - [**2160-11-4**] 12:51 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   ICU CONSENT NEEDS TO BE COMPLETED ONCE HCP IDENTIFIED
   [**Name (NI) 66**] status: Full code
   Disposition :ICU

2160-11-09 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**11-8**] sister agreed to become HCP [**Name (NI) **] [**Telephone/Fax (1) 10478**], signed ICU
   consent
   -still on AC
   -started diuresis, put out to lasix 10mg(received x2) about 1L negative
   at midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-8**] 08:00 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2160-11-8**] 04:30 PM
   Propofol - [**2160-11-8**] 05:23 PM
   Famotidine (Pepcid) - [**2160-11-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-9**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.3
   HR: 42 (39 - 62) bpm
   BP: 104/56(72) {95/54(67) - 146/133(137)} mmHg
   RR: 10 (10 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  2,591 mL
                                                                    619 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    486 mL
   IVF:
                                                                    726 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    330 mL
   Urine:
                                                                  3,735 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,144 mL
                                                                    289 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 41 cmH2O
   Plateau: 21 cmH2O
   SpO2: 99%
   ABG: 7.37/58/118/34/6
   Ve: 5.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   12.7 g/dL
   183 mg/dL
   0.6 mg/dL
   34 mEq/L
   4.1 mEq/L
   29 mg/dL
   103 mEq/L
   139 mEq/L
   39.4 %
   8.9 K/uL
        [image002.jpg]
                             [**2160-11-6**]  03:31 AM
                             [**2160-11-6**]  03:45 AM
                             [**2160-11-7**]  05:00 AM
                             [**2160-11-7**]  01:00 PM
                             [**2160-11-8**]  03:29 AM
                             [**2160-11-8**]  03:33 AM
                             [**2160-11-8**]  12:10 PM
                             [**2160-11-8**]  04:58 PM
                             [**2160-11-9**]  02:18 AM
                             [**2160-11-9**]  04:16 AM
   WBC
   10.5
   10.0
   10.6
   8.9
   Hct
   41.7
   41.5
   40.7
   39.4
   Plt
   237
   240
   241
   221
   Cr
   0.8
   0.8
   0.7
   0.7
   0.6
   TCO2
   23
   26
   28
   31
   35
   Glucose
   149
   208
   202
   206
   183
   Other labs: PT / PTT / INR:11.4/32.6/0.9, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Imaging: 1. Emphysema. Bilateral pleural effusion. No PE. Stable lung
   nodules. CT
   chest followup is recommended in one year to document two-year
   stability, if
   clinically warranted.
   2. Ascites.
   3. Hypodensity in the right liver lobe, not fully characterized on the
   current scan, and in similar appearance compared to prior study. If
   further
   clinical correlation is needed, ultrasound can be done.
   4. Cystic lesion at the left kidney.
   Microbiology:    GRAM STAIN (Final [**2160-11-5**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**2160-11-4**]  Rapid Respiratory Viral Screen & Culture Respiratory Viral
   Culture-FINAL; Respiratory Viral Antigen Screen-FINAL INPATIENT
   [**2160-11-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2160-11-4**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [**2160-11-4**]  URINE Legionella Urinary Antigen -FINAL INPATIENT
   [**2160-11-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now with likely
   contribution of volume overload
   - continue prednisone 60 po daily with taper
   - continue vancomycin x 8 days (day [**7-14**])
   - continue albuterol and ipratropirum nebs q4 hours
   - AC with increased TV and decreased RR
 then ABG
 will attempt PS
   trial
   - f/u culture data
   - I/O -1 L goal
   - [**Hospital1 **] lytes
   - IV bolus lasix
   # Oliguria: FeNa 0.11%, likely significantly pre-renal, UOP improved
   - attempt to hold off boluses given trying to diurese
   # Bradycardia: continued HR in 40s, believe it may be due to sedation
   vs. vagal response to intubation, BPs improved to 100-110s
   - monitor
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - defer  zyprexa 7.5mg for now
   - d/w SW re: guardian and person responsible for health care decisions
 attempting to find sister
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2160-11-9**] 05:50 AM 60 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   20 Gauge - [**2160-11-7**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2160-11-10 07:51:00 Physician Resident Progress Note
24 Hour Events:
 EKG - At [**2160-11-9**] 10:01 AM
   - continued to diurese -2L
   - placed on pressure support, but needed 18mmHg of support
   - remains on IV vancomycin
   - was apneic last night and placed on set RR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-9**] 08:05 PM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-11-9**] 08:05 PM
   Furosemide (Lasix) - [**2160-11-9**] 08:05 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-10**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 48 (45 - 63) bpm
   BP: 114/61(79) {102/52(68) - 137/80(91)} mmHg
   RR: 4 (4 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 73.4 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  2,393 mL
                                                                    476 mL
   PO:
             TF:
                                                                  1,441 mL
                                                                    348 mL
   IVF:
                                                                    642 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  4,365 mL
                                                                    515 mL
   Urine:
                                                                  4,365 mL
                                                                    515 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,972 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 520 (188 - 682) mL
   PS : 18 cmH2O
   RR (Set): 10
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 200
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.37/63/114/39/8
   Ve: 5.6 L/min
   PaO2 / FiO2: 285
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   12.7 g/dL
   149 mg/dL
   0.6 mg/dL
   39 mEq/L
   3.9 mEq/L
   26 mg/dL
   99 mEq/L
   142 mEq/L
   38.5 %
   9.1 K/uL
        [image002.jpg]
                             [**2160-11-8**]  03:29 AM
                             [**2160-11-8**]  03:33 AM
                             [**2160-11-8**]  12:10 PM
                             [**2160-11-8**]  04:58 PM
                             [**2160-11-9**]  02:18 AM
                             [**2160-11-9**]  04:16 AM
                             [**2160-11-9**]  09:30 AM
                             [**2160-11-9**]  05:03 PM
                             [**2160-11-10**]  04:02 AM
                             [**2160-11-10**]  04:05 AM
   WBC
   10.6
   8.9
   9.1
   Hct
   40.7
   39.4
   38.5
   Plt
   241
   221
   214
   Cr
   0.7
   0.7
   0.6
   0.8
   0.6
   TCO2
   28
   31
   35
   34
   38
   Glucose
   [**Telephone/Fax (3) 10490**]15
   149
   Other labs: PT / PTT / INR:11.7/55.7/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.4 mmol/L, Ca++:8.7 mg/dL, Mg++:1.9
   mg/dL, PO4:3.8 mg/dL
   [**11-4**] BCx x 2: NGTD
   [**11-4**] Legionella: negative
[**2160-11-4**] 7:06 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab.
                            **FINAL REPORT [**2160-11-7**]**
   Respiratory Viral Culture (Final [**2160-11-7**]):
      No respiratory viruses isolated.
      Culture screened for Adenovirus, Influenza A & B, Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus..
      Detection of viruses other than those listed above will only be
      performed on specific request. Please call Virology at [**Telephone/Fax (1) 10493**]
      within 1 week if additional testing is needed.
   Respiratory Viral Antigen Screen (Final [**2160-11-5**]):
      Negative for Respiratory Viral Antigen.
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, Influenza A, B,
      and RSV by immunofluorescence.
      Refer to respiratory viral culture for further information.
[**2160-11-5**] 11:04 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
                            **FINAL REPORT [**2160-11-7**]**
   GRAM STAIN (Final [**2160-11-5**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Final [**2160-11-7**]):
      SPARSE GROWTH Commensal Respiratory Flora.
    [**11-9**] CXR
   ET tube is in standard placement, nasogastric tube passes below the
   diaphragm
   and out of view. Heart is normal size. Bilateral infrahilar
   opacification
   has not cleared since [**11-6**] and is concerning for pneumonia. Heart
   size
   normal. No pleural abnormality.
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now with likely
   contribution of volume overload
   - continue prednisone 60 po daily with taper
   - continue vancomycin x 8 days (day 7 /8)
   - continue albuterol and ipratropirum nebs q4 hours
   - will attempt PS trial with repeat ABG
   - f/u culture data
   - I/O -1 to 1.5L goal
   - [**Hospital1 **] lytes
   - IV bolus lasix
   # Oliguria: FeNa 0.11%, likely significantly pre-renal, UOP improved
   - attempt to hold off boluses given trying to diurese
   # Bradycardia: continued HR in 40s, believe it may be due to sedation
   vs. vagal response to intubation, BPs improved to 100-110s
   - monitor
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - cont zyprexa 7.5mg per home regimen
   - sister is HCP may need guardian
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-4**] 12:50 PM
   Arterial Line - [**2160-11-4**] 04:00 PM
   20 Gauge - [**2160-11-7**] 05:15 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2160-11-11 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - prednisone decreased to 40 daily
   - 20 IV lasix x 2, -1.3 L
   - on [**1-15**] overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-10**] 08:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-11-10**] 08:00 PM
   Furosemide (Lasix) - [**2160-11-10**] 10:15 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-11**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 45 (42 - 67) bpm
   BP: 128/64(86) {93/51(65) - 158/79(103)} mmHg
   RR: 8 (6 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 77.5 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  2,446 mL
                                                                    763 mL
   PO:
             TF:
                                                                  1,440 mL
                                                                    482 mL
   IVF:
                                                                    796 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  3,735 mL
                                                                    980 mL
   Urine:
                                                                  3,735 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,289 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 370 (40 - 581) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: 7.46/66/77/46/18
   Ve: 4.6 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   239 K/uL
   12.8 g/dL
   112 mg/dL
   0.6 mg/dL
   46 mEq/L
   3.6 mEq/L
   28 mg/dL
   94 mEq/L
   142 mEq/L
   39.9 %
   8.9 K/uL
        [image002.jpg]
                             [**2160-11-9**]  09:30 AM
                             [**2160-11-9**]  05:03 PM
                             [**2160-11-10**]  04:02 AM
                             [**2160-11-10**]  04:05 AM
                             [**2160-11-10**]  11:59 AM
                             [**2160-11-10**]  05:10 PM
                             [**2160-11-10**]  10:16 PM
                             [**2160-11-11**]  04:29 AM
                             [**2160-11-11**]  04:42 AM
                             [**2160-11-11**]  06:12 AM
   WBC
   9.1
   8.9
   Hct
   38.5
   43
   39.9
   Plt
   214
   239
   Cr
   0.8
   0.6
   0.7
   0.6
   TCO2
   34
   38
   43
   36
   47
   48
   Glucose
   [**Telephone/Fax (3) 10506**]12
   Other labs: PT / PTT / INR:11.8/45.3/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:1.9
   mg/dL, PO4:3.7 mg/dL
   [1][**2160-11-5**]
   SPUTUM
GRAM STAIN-FINAL     >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.; RESPIRATORY CULTURE-
FINAL SPARSE GROWTH Commensal Respiratory Flora.
   INPATIENT
   [2][**2160-11-4**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen Screen-FINAL
   INPATIENT
   [3][**2160-11-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [4][**2160-11-4**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   [5][**2160-11-4**]
   URINE
   Legionella Urinary Antigen -FINAL
   INPATIENT
   [6][**2160-11-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now with likely
   contribution of volume overload. Overnight had apnea likely due to
   overventilation.
   - continue prednisone 40 po daily with taper to 30mg daily tomorrow
   - hold tube feeds
   - continue vancomycin x 8 days (day 8 /8)
   - continue albuterol and ipratropirum nebs q4 hours
   - will attempt PS 5/5, attempt extubation today or tomorrow
   - f/u culture data
   - I/O even
   # Bradycardia: Hr 50s, stable, no active issues.
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - cont zyprexa 7.5mg per home regimen
   - sister is HCP may need guardian
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2160-11-11**] 05:39 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-11-4**] 04:00 PM
   20 Gauge - [**2160-11-10**] 09:00 AM
   Prophylaxis:
   DVT: hep subq
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2160-11-12 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -extubated and did well with agressive nebs and chest PT and pulm
   toilet
   -started captopril for BP/afterload reduction
   -autodiuresed to be -3L at midnight
   -restarted home inhalers
   -SW met with sister and [**Name2 (NI) 10527**] he does not need a guardian and has
   capacity
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2160-11-12**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 67 (57 - 90) bpm
   BP: 135/67(91) {127/59(81) - 171/83(112)} mmHg
   RR: 22 (18 - 42) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.3 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                  1,191 mL
                                                                     77 mL
   PO:
             TF:
                                                                    580 mL
   IVF:
                                                                    381 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  4,195 mL
                                                                    850 mL
   Urine:
                                                                  4,195 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,004 mL
                                                                   -773 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 234 (156 - 234) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 95%
   ABG: 7.41/68/113/47/15
   Ve: 5.3 L/min
   PaO2 / FiO2: 323
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   232 K/uL
   12.6 g/dL
   99 mg/dL
   0.6 mg/dL
   47 mEq/L
   3.9 mEq/L
   23 mg/dL
   96 mEq/L
   144 mEq/L
   38.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2160-11-10**]  04:05 AM
                             [**2160-11-10**]  11:59 AM
                             [**2160-11-10**]  05:10 PM
                             [**2160-11-10**]  10:16 PM
                             [**2160-11-11**]  04:29 AM
                             [**2160-11-11**]  04:42 AM
                             [**2160-11-11**]  06:12 AM
                             [**2160-11-11**]  11:55 AM
                             [**2160-11-11**]  05:38 PM
                             [**2160-11-12**]  03:06 AM
   WBC
   8.9
   10.8
   Hct
   43
   39.9
   38.5
   Plt
   239
   232
   Cr
   0.7
   0.6
   0.6
   TCO2
   38
   43
   36
   47
   48
   46
   45
   Glucose
   186
   112
   99
   Other labs: PT / PTT / INR:11.8/38.7/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.5 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Imaging: CXR [**2160-11-11**]: Continued improvement in the perihilar
   infiltrates with no new consolidation
   or pneumothorax.
   Microbiology: No new data
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now with likely
   contribution of volume overload. Overnight had apnea likely due to
   overventilation.
   - continue prednisone 40 po daily with taper to 30mg daily tomorrow
   - hold tube feeds
   - continue vancomycin x 8 days (day 8 /8)
   - continue albuterol and ipratropirum nebs q4 hours
   - will attempt PS 5/5, attempt extubation today or tomorrow
   - f/u culture data
   - I/O even
   # Elevated PTT: hold sc heparin to ensure this is all heparin effect,
   mobilize/ambulate with PT for DVT ppx for next day.
   # Low Anion Gap: will check total protein
   # Bradycardia: Hr 50s, stable, no active issues.
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - cont zyprexa 7.5mg per home regimen
   - sister is HCP may need guardian
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-11-4**] 04:00 PM
   20 Gauge - [**2160-11-11**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2160-11-13 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - remained extubated, bipapped overnight.
   - [**Hospital **] rehab/LTAC screening
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-11-12**] 08:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2160-11-12**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2160-11-13**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-13**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 60 (56 - 88) bpm
   BP: 127/61(78) {127/61(78) - 127/61(78)} mmHg
   RR: 25 (20 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.3 kg (admission): 66 kg
   Height: 65 Inch
             Total In:
                                                                    990 mL
                                                                     74 mL
   PO:
                                                                    550 mL
             TF:
   IVF:
                                                                    440 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  2,430 mL
                                                                    870 mL
   Urine:
                                                                  2,430 mL
                                                                    870 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,440 mL
                                                                   -796 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.46/68/82.[**Numeric Identifier 96**]/45/20
   PaO2 / FiO2: 237
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   266 K/uL
   12.1 g/dL
   99 mg/dL
   0.7 mg/dL
   45 mEq/L
   5.7 mEq/L
   27 mg/dL
   98 mEq/L
   143 mEq/L
   38.2 %
   11.1 K/uL
        [image002.jpg]
                             [**2160-11-11**]  04:29 AM
                             [**2160-11-11**]  04:42 AM
                             [**2160-11-11**]  06:12 AM
                             [**2160-11-11**]  11:55 AM
                             [**2160-11-11**]  05:38 PM
                             [**2160-11-12**]  03:06 AM
                             [**2160-11-12**]  01:21 PM
                             [**2160-11-13**]  12:26 AM
                             [**2160-11-13**]  04:50 AM
                             [**2160-11-13**]  04:59 AM
   WBC
   8.9
   10.8
   11.1
   Hct
   39.9
   38.5
   38.2
   Plt
   [**Telephone/Fax (3) 10531**]
   Cr
   0.6
   0.6
   0.7
   TCO2
   47
   48
   46
   45
   50
   50
   50
   Glucose
   112
   99
   99
   Other labs: PT / PTT / INR:11.8/38.7/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:3.7 mg/dL
   Assessment and Plan:
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation, now extubated
   and doing well however using accessory muscles to breath. Now completed
   Vanco 8 day course for VAP.
   - continue prednisone 30mg daily for 3 days with plans to taper to 20mg
   on [**11-16**]
   - continue albuterol q4 hr and ipratropirum nebs q6 hours and prn
   -resume spiriva and advair per home meds
   -Bipap overnight
   - f/u culture data-NGTD
   - I/O goal at least 1 liter negative
   # Elevated PTT: monitor likely [**3-10**] heparin.
   # Low Anion Gap: likely [**3-10**] elevated bicarb, labs hemolyzed this am,
   repeat K
   # Bradycardia: resolved, monitor
   # Schizophrenia vs MR: unclear given notes, on disability for mental
   health.
   - cont zyprexa 7.5mg per home regimen
   - sister is HCP but patient has capacity
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2160-11-4**] 04:00 PM
   20 Gauge - [**2160-11-11**] 02:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU, will need pulm rehab

2160-11-16 07:44:00 Physician Resident Progress Note
24 Hour Events:
   - remained on IV steroids yesterday
   - change this morning to lisinopril from captopril
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-11-16**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-16**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 76 (68 - 100) bpm
   BP: 135/70(84) {105/51(66) - 160/99(102)} mmHg
   RR: 32 (17 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 66 kg
   Height: 65 Inch
                  Total In:
                                                                  1,100 mL
                  PO:
                                                                  1,100 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    425 mL
   Urine:
                                                                  1,888 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -788 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   General Appearance: No(t) No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   280 K/uL
   12.5 g/dL
   159 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   143 mEq/L
   37.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2160-11-11**]  06:12 AM
                             [**2160-11-11**]  11:55 AM
                             [**2160-11-11**]  05:38 PM
                             [**2160-11-12**]  03:06 AM
                             [**2160-11-12**]  01:21 PM
                             [**2160-11-13**]  12:26 AM
                             [**2160-11-13**]  04:50 AM
                             [**2160-11-13**]  04:59 AM
                             [**2160-11-14**]  04:13 AM
                            [**2160-11-16**]  05:00 AM
   WBC
   10.8
   11.1
   9.9
   17.4
   Hct
   38.5
   38.2
   37.5
   37.3
   Plt
   232
   266
   247
   280
   Cr
   0.6
   0.7
   0.8
   0.7
   TCO2
   48
   46
   45
   50
   50
   50
   Glucose
   99
   99
   96
   159
   Other labs: PT / PTT / INR:12.0/37.2/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   [1][**2160-11-5**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [2][**2160-11-4**]
   Rapid Respiratory Viral Screen & Culture
   Respiratory Viral Culture-FINAL; Respiratory Viral Antigen Screen-FINAL
   [3][**2160-11-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [4][**2160-11-4**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   [5][**2160-11-4**]
   URINE
   Legionella Urinary Antigen -FINAL
   [6][**2160-11-4**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   [**11-14**] CXR
   Patient has been extubated. Cardiomediastinal contours are normal.
   Patient
   has known emphysema. There is no evidence of pneumonia or CHF. There is
   no
   pleural effusion.
   Assessment and Plan
   64 y.o. M with COPD, admitted with respiratory distress, secondary to
   COPD exacerbation.
   # Respiratory distress: Secondary to COPD exacerbation([**11-11**]), now
   extubated and doing well; however using accessory muscles to breath,
   paritculary after eating quickly. Now completed Vanco 8 day course for
   VAP.
   - change to prednisone 60 mg po daily
   - continue albuterol q4 hr and ipratropirum nebs q6 hours and prn
   - Bipap overnight
   - f/u culture data-NGTD
   - I/O goal at least [**2-8**] liter negative, follow weight
   - OOB today
   - add sliding scale insulin while on steroids
   - start h2blocker while on steroids
   # Hypertension: continue lisinopril 20 mg daily
   # Elevated PTT: monitor likely [**3-10**] heparin.
   # Schizophrenia +/- MR: unclear given notes, on disability for mental
   health.
   - cont zyprexa 7.5mg per home regimen
   - sister is HCP but patient has capacity
   # Pulmonary Nodules: Seen on Chest CT
 would do [**2-8**] year follow CT to
   assess stability.
   # Liver Hypodensity: Not fully characterized; may consider outpt liver
   U/S
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-11-14**] 03:14 PM
   Prophylaxis:
   DVT: HSQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: call out to floor
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2160-11-16 08:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   64yo man with a h/o COPD with prior intubations and hospitalization,
   schizophrenia, and other issues who is here with a presumptive COPD
   flare requiring vent support now extubated on [**2160-11-11**]. Remains in the
   ICU [**3-10**] tenuous pulmonary status characterized by poor air movement,
   hypoxia and significant wheezing.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-11-16**] 12:00 AM
   Solumedrol 125 q8
   Other medications:
   Atrovent
   lisinopril
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-16**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 76 (68 - 100) bpm
   BP: 135/70(84) {105/51(66) - 160/99(102)} mmHg
   RR: 32 (17 - 40) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70.4 kg (admission): 66 kg
   Height: 65 Inch
                  Total In:
                                                                  1,100 mL
                  PO:
                                                                  1,100 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,888 mL
                                                                    425 mL
   Urine:
                                                                  1,888 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -788 mL
                                                                   -425 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   General: alert, NAD
   CV:RRR, no m/r/g
   Pulm:improved air movement bilaterally.  Bilateral expiratory wheezes
   Abd:soft, NTND
   Extrem: no edema
   Neuro:alert, no focal deficit
   Labs / Radiology
   12.5 g/dL
   280 K/uL
   159 mg/dL
   0.7 mg/dL
   37 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   143 mEq/L
   37.3 %
   17.4 K/uL
        [image002.jpg]
                             [**2160-11-11**]  06:12 AM
                             [**2160-11-11**]  11:55 AM
                             [**2160-11-11**]  05:38 PM
                             [**2160-11-12**]  03:06 AM
                             [**2160-11-12**]  01:21 PM
                             [**2160-11-13**]  12:26 AM
                             [**2160-11-13**]  04:50 AM
                             [**2160-11-13**]  04:59 AM
                             [**2160-11-14**]  04:13 AM
                            [**2160-11-16**]  05:00 AM
   WBC
   10.8
   11.1
   9.9
   17.4
   Hct
   38.5
   38.2
   37.5
   37.3
   Plt
   232
   266
   247
   280
   Cr
   0.6
   0.7
   0.8
   0.7
   TCO2
   48
   46
   45
   50
   50
   50
   Glucose
   99
   99
   96
   159
   Other labs: PT / PTT / INR:12.0/37.2/1.0, CK / CKMB /
   Troponin-T:37/3/<0.01, Lactic Acid:1.5 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   64yo man with a h/o COPD with prior intubations and hospitalization,
   schizophrenia, and other issues who is here with a presumptive COPD
   flare requiring vent support.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Successfully extubated [**11-11**], transiently on BiPAP post-extubation, and
   solumedrol restarted [**11-14**] for increased work of breathing.  Slightly
   less accessory muscle use this AM, but continues to have very poor air
   movement.  Got two additional days of IV steroids, and will change to
   prednisone 60mg daily today.  Is on BIPAP at night.  Slowly improving.
 PULMONARY EDEMA
   Seems to be resolving without diuresis (autodiuresing).
 SCHIZOPHRENIA
   Continue Zyprexa. Follow clinically.
   -LEUKOCYTOSIS:  likely secondary to steroids, but will monitor closely
   for signs of infection
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-11-14**] 03:14 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : transfer to flow today
   Total time spent: 30 min